US04236002
α-(Aminocarbonyl)amino-4-hydroxy-3-methylbenzeneacetic acid
A mixture of α-(aminocarbonyl)amino-3-chloromethyl-4-hydroxybenzeneacetic acid (0.1 mole) and 10% Pd on charcoal (1 g) catalyst in 50 ml of water is subjected to hydrogen gas at a pressure of about 60 pounds/in2 at room temperature for a period of about 16 hours. Removal of the catalyst followed by evaporation of the water gives the title compound.

reactant | α-(aminocarbonyl)amino-3-chloromethyl-4-hydroxybenzeneacetic acid | 0.1 mole | NC(=O)NC(C(=O)O)C1=CC(=C(C=C1)O)CCl | C10H11ClN2O4
reactant | hydrogen | [H][H] | H2
solvent | water | 50 ml | O | H2O
catalyst | Pd on charcoal | 1 g | [Pd] | Pd
product | α-(Aminocarbonyl)amino-4-hydroxy-3-methylbenzeneacetic acid | NC(=O)NC(C(=O)O)C1=CC(=C(C=C1)O)C | C10H12N2O4
